US07226951B2
4-Bromo-2-methyl-benzoic acid isopropyl ester (Intermediate 117)
A solution of 4-bromo-2-methyl-benzoic acid (Aldrich, 5.4 g, 25 mmol) in benzene (75 mL) and isopropanol (75 mL) was treated with concentrated sulfuric acid (1.5 mL) and heated to reflux over 4 days using a Dean-Stark water trap. The volatiles were evaporated in vacuo, the residue was diluted with water and extracted with diethyl ether. The organic phase was washed with water and saturated, aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford the title product as a clear oil that was used as such for the next step (6.12 g, 95%).

reactant | 4-bromo-2-methyl-benzoic acid | 25 mmol, 5.4 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | benzene | 75 mL | C1=CC=CC=C1 | C6H6
solvent | isopropanol | 75 mL | C(C)(C)O | C3H8O
product | 4-Bromo-2-methyl-benzoic acid isopropyl ester | C(C)(C)OC(C1=C(C=C(C=C1)Br)C)=O | C11H13BrO2
